US07820823B2
N-{(5S)-3-[3-Fluoro-4-(piperidin 4-ylamino)-phenyl]-2-oxo-oxazolidin-5-yl methyl}-acetamide
A suspension of 480 mg (1 mmol) 4-{4-[(5S)-5-(acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-2-fluoro-phenylamino}-piperidine-1-carboxylic acid benzyl ester and Pd/C in 2 ml of a methanol/acetic acid 1/1 mixture was stirred under H2 for 4 h. The Pd/C was filtered and the filtrate was evaporated to dryness.

reactant | 4-{4-[(5S)-5-(acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-2-fluoro-phenylamino}-piperidine-1-carboxylic acid benzyl ester | 1 mmol, 480 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)NC1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C25H29FN4O5
solvent | CH2Cl2 TFA | 2 ml | C(Cl)Cl.C(=O)(C(F)(F)F)O
catalyst | Pd/C | [Pd] | Pd
product | N-{(5S)-3-[3-Fluoro-4-(piperidin 4-ylamino)-phenyl]-2-oxo-oxazolidin-5-yl methyl}-acetamide | FC=1C=C(C=CC1NC1CCNCC1)N1C(O[C@H](C1)CNC(C)=O)=O | C17H23FN4O3
